US05036075
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (2.8 g), triethylamine (1.4 cc) and 4-phenyl-1,2,3,6-tetrahydropyridine (1.6 g) in toluene (30 cc). The mixture is heated for 8 hours at boiling point, then cooled to a temperature of about 20° C. Stirring is continued for 15 hours at this temperature. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with ethyl acetate as eluant, and recrystallization from boiling isopropanol (2 cc), 2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]naphtho[1,8-cd]isothiazole 1,1-dioxide (1.5 g) is obtained, m.p. 88° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 2.8 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 1.4 cc | C(C)N(CC)CC | C6H15N
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine | 1.6 g | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
solvent | toluene | 30 cc | C1(=CC=CC=C1)C | C7H8
product | 2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]naphtho[1,8-cd]isothiazole 1,1-dioxide | 1.5 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C24H24N2O2S
